US07811595B2
Preparation of [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester (27):
A solution of [(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester, 26, (3.04 g, 6.79 mmol) in EtOH (100 mL) containing 10% Pd/C (0.300 g) is stirred under an atmosphere of H2 for 22 hours. The suspension is then filtered through Celite™, concentrated under reduced pressure, and the crude product purified over silica (2.5% MeOH/CH2Cl2) to afford 1.20 g (66% yield) of the desired compound as a colorless oil. 1H NMR (250 MHz, CDCl3) δ ppm 11.90 (1H, br s), 8.94 (1H, br s), 8.20 (1H, t, J=5.6 Hz), 7.76 (1H, d, J=2.4 Hz), 6.77 (1H, d, J=2.1 Hz), 4.13 (2H, d, J=5.5 Hz), 1.53 (9H, s). HPLC-MS: m/z 269 [M+H]+.

reactant | [(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CNC(=O)C1=NC=C(C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C26H28N2O5
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 0.300 g | [Pd] | Pd
product | [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester | 1.20 g, 66% yield | C(C)(C)(C)OC(CNC(=O)C1=NC=C(C=C1O)O)=O | C12H16N2O5
